US06833456B2
To 0.68 g (1.23 mmol) of 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid, prepared as described in Groton patent, was added 0.25 g (1.23 mmol) of 5-Amino-2-methyl-indole-1-carboxylic acid methylamide, prepared as described in Example 1(a) steps (i) to (iii), dissolved in 3 mL of DMSO that was degassed with Ar and warmed to 75° C. The solution was stirred for 14 h, cooled to 25° C. and filtered. The precipitate was rinsed with EtOAc (2×5 mL) and put under high vacuum for 12 h to give 0.43 g (98%) of 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid as yellow solid. HPLC: Rt 3.38 min. (97.2% area). 1H NMR (CDCl3, 300 MHz) δ 9.18 (1H, bs), 8.37 (1H, d, J=5.6 Hz), 8.30 (1H, q, J=3.4 Hz), 7.94 (1H, s), 7.70 (1H, d, J=8.7 Hz), 7.46 (1H, s), 7.17 (1H, dd, J=8.8, 1.9 Hz), 6.79 (1H, d, J=5.6 Hz), 6.45 (1H, s), 2.96 (3H, s), 2.94 (3H, s). LCMS (APCI) (M+H+) m/z: 381.1

reactant | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid | 1.23 mmol, 0.68 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)O | C8H4ClNO2S
reactant | 5-Amino-2-methyl-indole-1-carboxylic acid methylamide | 1.23 mmol, 0.25 g | CNC(=O)N1C(=CC2=CC(=CC=C12)N)C | C11H13N3O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid | 0.43 g, 98% | CC=1N(C2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)O)C(NC)=O | C19H16N4O3S
